US03997539
To a stirred mixture of 9.0 g of lithium aluminum hydride in 400 ml. of 1,2-dimethoxyethane is added 10.52 g (0.35 mol) of 1-(2-methylindol-3-ylglyoxyloyl)-4-nitrosopiperazine slowly to maintain reaction temperature below 35° C. After all the material is added, the mixture is refluxed for 14-16 hours. The reaction mixture is cooled to -5° C. and a solution of 50 ml. of water and 50 ml. of 1,2-dimethoxyethane is slowly added while maintaining the temperature below 15° C. Another 50 ml. of water is added. The mixture is then filtered, the solvent is removed, and the residual solid is recrystallized from hot benzene, producing the pure crystals of 3-[2-(4-aminopiperazin-1-yl)ethyl]-2-methylindole, m.p. 118°-120° C. Analysis: Calculated for C15H22N4 : 71.08% C; 8.21% H; 20.72% N Found:71.11% C; 8.28% H; 20.75 % N.

reactant | lithium aluminum hydride | 9.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | 1-(2-methylindol-3-ylglyoxyloyl)-4-nitrosopiperazine | 0.35 mol, 10.52 g | CC=1NC2=CC=CC=C2C1C(C(=O)N1CCN(CC1)N=O)=O | C15H16N4O3
solvent | water | O | H2O
product | 3-[2-(4-aminopiperazin-1-yl)ethyl]-2-methylindole | NN1CCN(CC1)CCC1=C(NC2=CC=CC=C12)C | C15H22N4
